US06159979
5-(4-Acetylphenyl)-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide
The title compound was prepared from 5-bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide (E20) and 4-acetylphenylboronic acid using a similar procedure to Example 4 (20%).

reactant | 5-bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide | BrC1=C2C=CC=C(C2=CC=C1)CC(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C24H26BrN3O2
reactant | 4-acetylphenylboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 5-(4-Acetylphenyl)-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide | C(C)(=O)C1=CC=C(C=C1)C1=C2C=CC=C(C2=CC=C1)CC(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C32H33N3O3
